US08633173B2
166 c) To a stirred solution of crude 5-nitro-2,3-dihydro-1H-isoindole (9.0 g, 55 mmol) and 4-dimethylaminopyridine (0.33 g, 2.7 mmol) in N,N-dimethylformamide (50 mL) was added di-tert-Butyldicarbonate (14 mL, 6.0 0 mmol) and the mixture was stirred for 18 hours at room temperature. To the mixture was added water (150 mL) and the mixture was stirred vigorously for 30 minutes. The resulting precipitate was filtered, rinsed with water and dried by suction. Crude 5-nitro-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester was isolated as brown solid (7.88 g, 54%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.20-8.09 (m, 2H), 7.41 (dd, J=21.1, 8.6 Hz, 1H), 4.77 (s, 2H), 4.74 (s, 2H), 1.53 (s, 9H). MS=287 (M+Na)+.

reactant | 5-nitro-2,3-dihydro-1H-isoindole | 55 mmol, 9.0 g | [N+](=O)([O-])C=1C=C2CNCC2=CC1 | C8H8N2O2
reactant | di-tert-Butyldicarbonate | 0 mmol, 14 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 150 mL | O | H2O
catalyst | 4-dimethylaminopyridine | 2.7 mmol, 0.33 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 5-nitro-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C13H16N2O4
